US07320993B1
N-[4-(benzhydryl-amino)-butyl]-3-pyridin-3-yl-acrylamide (Substance 187)
Batch size: 1.9 g (12.6 mmol) 3-(3-pyridyl)-acrylic acid, 2.5 g (15.1 mmol) CDI and 3.7 g (14.5 mmol) 4-(benzhydryl-amino)-butylamine in 60 ml abs. THF.

reactant | 3-(3-pyridyl)-acrylic acid | 12.6 mmol, 1.9 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | CDI | 15.1 mmol, 2.5 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-(benzhydryl-amino)-butylamine | 14.5 mmol, 3.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCN | C17H22N2
solvent | THF | C1CCOC1 | C4H8O
product | N-[4-(benzhydryl-amino)-butyl]-3-pyridin-3-yl-acrylamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCNC(C=CC=1C=NC=CC1)=O | C25H27N3O
